US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-[2-(dimethylamino)-2-oxoethyl]-1-piperazinecarboxamide
As described for example 171, [[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-acetic acid, di-methylamine, iPr2NEt, and HATU are reacted to afford the product. LC-MS: 390 (M++1). 1H NMR (CDCl3): δ 3.05 (s, 6H), 3.1–3.2 (m, 4H), 3.6–3.8 (m, 4H), 4.05–4.15 (d, 2H), 4.9–5.0 (s, H), 5.8 (m, 1H), 6.1–6.2 (s, 1H), 7.1–7.2 (m, 1H), 7.6 (m, 1H), 7.7–7.8 (m, 1H).

reactant | [[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-acetic acid | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NCC(=O)O)Cl | C16H18ClN5O3
reactant | di-methylamine | CNC | C2H7N
reactant | iPr2NEt | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-[2-(dimethylamino)-2-oxoethyl]-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NCC(=O)N(C)C)Cl | C18H23ClN6O2
